US07598249B2
4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid (4-fluoro-phenyl)-amide
The title compound was prepared from piperazine-1-carboxylic acid (4-fluoro-phenyl)-amide and piperonal. 1H NMR (400 MHz, CDCl3): 7.29-7.24 (m, 2H), 6.98-6.92 (m, 2H), 6.85 (s, 1H), 6.77-6.71 (m, 2H), 6.56 (s, 1H), 5.95 (s, 2H), 3.50-3.45 (m, 6H), 2.45 (t, J=5.1 Hz, 4H).

reactant | piperazine-1-carboxylic acid (4-fluoro-phenyl)-amide | FC1=CC=C(C=C1)NC(=O)N1CCNCC1 | C11H14FN3O
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
product | 4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid (4-fluoro-phenyl)-amide | FC1=CC=C(C=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1 | C19H20FN3O3
